US07723333B2
4-[(2-Hydroxyethyl)amino]-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (1.10 g, 3.85 mmol) was dissolved in dry DMF (10 mL) under nitrogen atmosphere. 2-Aminoethanol (0.28 g, 4.62 mmol) was added followed by TEA (0.58 g, 5.77 mmol). The reaction mixture was heated in a microwave reactor at 120° C. for 15 mins. The mixture was diluted with EtOAc, washed with saturated aqueous NaHCO3, dried with Na2SO4, filtered and evaporated. The residue was purified on a Biotage Horizon HPFC system using Heptane and EtOAc as eluant and TEA as additive affording the title compound (1.18 g, 99.1%). 1H NMR (500 MHz, CDCl3): δ 1.59 (d, 6H), 3.02 (q, 2H), 3.57 (t, 2H), 4.38-4.46 (m, 1H), 5.71 (bs, 1H), 7.43-7.46 (m, 3H), 7.50-7.53 (m, 2H); 13C NMR (125 MHz, CDCl3): δ 20.38, 46.11, 47.76, 60.78, 107.46, 125.22, 128.96, 129.89, 131.70, 135.84, 158.67; Mass Spectrum: M+H+ 311.

reactant | 4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 3.85 mmol, 1.10 g | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | 2-Aminoethanol | 4.62 mmol, 0.28 g | NCCO | C2H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[(2-Hydroxyethyl)amino]-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 1.18 g, 99.1% | OCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C14H18N2O4S
